US07678794B2
Synthesis of 3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-N-[3-(2H-tetrazol-5-yl)-phenyl]-benzamide
Heat a mixture of 3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-N-(3-cyano-phenyl)-benzamide, sodium azide (1.12 g, 17.3 mmol), and ammonium chloride in dimethylformamide at 110 C for 24 hours. Cool to room temperature and dilute with water. Filter and wash several times with water. Dry filtered material and dissolve in hot acetone. Purify the resulting solution via chromatography, eluting with hexanes:acetone with 1% acetic acid to afford the title compound. 1H NMR (DMSO-d6) δ 0.88 (t, 3H), 1.52 (sextet, 2H), 2.58 (s, 3H), 2.62 (t, 2H), 5.37 (s, 2H), 6.76 (d, 1H), 7.57 (d, 1H), 7.61 (d, 1H), 7.68 (d, 1H), 7.74 (d, 1H), 7.82 (d, 1H), 7.97 (m, 2H), 8.09 (m, 1H), 8.59 (s, 1H), 10.56 (s, 1H), 12.85 (s, 1H); MS (APCI-neg mode) m/z (rel intensity) 470 (100).

reactant | 3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-N-(3-cyano-phenyl)-benzamide | C(C)(=O)C1=C(C(=C(OCC=2C=C(C(=O)NC3=CC(=CC=C3)C#N)C=CC2)C=C1)CCC)O | C26H24N2O4
reactant | sodium azide | 17.3 mmol, 1.12 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-N-[3-(2H-tetrazol-5-yl)-phenyl]-benzamide | C(C)(=O)C1=C(C(=C(OCC=2C=C(C(=O)NC3=CC(=CC=C3)C=3N=NNN3)C=CC2)C=C1)CCC)O | C26H25N5O4
